* C:\Users\cohen\Desktop\ECG\ECG_AUDIO_OUT.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N010 N014 NC_01 NC_02 N011 LT1001
X§U2 N032 N030 NC_03 NC_04 N031 LT1001
R1 N030 N031 R
R2 N024 N030 40K
R3 N014 N024 40K
R4 N011 N014 R
X§U4 N024 N035 NC_05 NC_06 N035 LT1001
X§U5 N040 N039 NC_07 NC_08 N038 LT1001
R5 N038 N035 R
C§68p N039 N038 C
R6 N039 N038 866K
R7 N038 N029 499K
R8 N012 N011 R
R9 N019 N031 R
R10 N025 N019 R
R11 N013 N012 R
X§U6 N019 N012 NC_09 NC_10 N013 LT1001
R12 N032 N018 R
R13 N010 N009 R
V§LA N009 N008 PWL file=LA.txt
V§RA N018 N008 PWL file=RA.txt
V§RL_CMI N008 N029 SINE(0 0.2 50)
C5 N026 N025 C
R14 N026 N025 R
X§U3 N033 N026 NC_11 NC_12 N025 LT1001
R15 N013 N026 R
R16 N015 N013 R
C6 N015 N027 C
X§U7 N015 N021 NC_13 NC_14 N016 LT1001
R17 N016 N021 R
C7 N017 N016 C
R18 N017 N028 R
X§U8 N017 N022 NC_15 NC_16 N020 LT1001
R19 NC_17 N022 R
C8 N020 N022 C
R20 N022 N034 R
V1 N001 N005 9
R21 N001 N004 100K
R22 N004 N005 100K
D1 N032 N037 D
D2 N010 N007 D
D3 N023 N032 D
D4 N023 N010 D
C2 N010 N032 C
C3 N032 N036 C
C4 N006 N010 C
X§U9 N004 N002 N001 N005 N003 LT1001
C9 N001 N004 0.01µ
C10 N004 N005 0.01µ
R23 N002 N003 1K
C11 N001 N002 0.1µ
C12 N001 N002 10µ
C13 N002 N005 10µ
C14 N002 N005 0.1µ
.model D D
.lib C:\Users\cohen\AppData\Local\LTspice\lib\cmp\standard.dio
* ADC
* -VE
* +VE
* +VE
* +VE
* -VE
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* VGND
* LEFT ARM
* RIGHT ARM
* RIGHT LEG/ CMI
* VGND
* +VE
* +VE
* +VE
* +VE
* +VE
* +VE
* +VE
* +VE
.tran 20 ;
.lib LTC.lib
.backanno
.end
